US03943124
2β-Ethoxy-3α-hydroxy-5α-androstan-11-one-17β-carboxylic acid
A solution of 2α,3α-epoxy-5α-androstan-11-one-17β-carboxylic acid (940 mg.) and concentrated sulphuric acid (0.25 ml.) in dry ethanol (30 ml.) was stirred at room temperature for 30 minutes. Water (100 ml.) was added and the reaction mixture extracted with chloroform. The chloroform solution was washed with water, dried, filtered and evaporated to give a froth which solidified when triturated with chloroform/petrol. Filtration afforded the solid crude product (752 mg.) which, after recrystallisation from ethanol/water, afforded the pure title compound; m.p. 249°-260°; [α]D + 74°, (c 0.33).

reactant | 2α,3α-epoxy-5α-androstan-11-one-17β-carboxylic acid | 940 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]1(C2)C)=O)C(=O)O | C20H28O4
reactant | sulphuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | Water | 100 ml | O | H2O
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 2β-Ethoxy-3α-hydroxy-5α-androstan-11-one-17β-carboxylic acid | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=O)C(=O)O)O | C22H34O5
